US09238631B2
c) 4-[3-(Benzyloxy)propyl]benzaldehyde
To a solution of benzyl 3-(4-bromophenyl)propyl ether (3.59 g, 11.77 mmol) in tetrahydrofuran (32 mL) at −75° C. under an argon atmosphere was added n-butyllithium (1.6 M in hexane, 8.83 mL). The solution was stirred for 15 min, and N,N-dimethylformamide (1.09 mL, 14.13 mmol) was added dropwise. The reaction was stirred for another 30 min and than warmed to room temperature, quenched with aqueous ammonium chloride solution, extracted with tert-butyl methyl ether and concentrated in vacuo. The crude product was purified on silica gel using a hexane/ethyl acetate gradient, and the appropriate fractions were combined and concentrated.

reactant | benzyl 3-(4-bromophenyl)propyl ether | 11.77 mmol, 3.59 g | BrC1=CC=C(C=C1)CCCOCC1=CC=CC=C1 | C16H17BrO
reactant | n-butyllithium | 1.6 M, 8.83 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 14.13 mmol, 1.09 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 32 mL | O1CCCC1 | C4H8O
product | 4-[3-(Benzyloxy)propyl]benzaldehyde | C(C1=CC=CC=C1)OCCCC1=CC=C(C=O)C=C1 | C17H18O2
